US04921851
In a mixture of 30 ml of dichloromethane and 10 ml of dimethylformamide is dissolved 500 mg of 6-(2-hydroxyethylthio)imidazo[1,2-b]pyridazine, followed by addition of 2 drops of triethylamine. Then, with stirring and cooling at -20° C., 490 mg of chloroacetyl isocyanate is added dropwise. Thereafter, the mixture is stirred at -20° to -10° C. for 1 hour. The dichloromethane is distilled off under reduced pressure and the residual solution is subjected to silica gel (100 g) column chromatography, with elution being carried out with ethyl acetate. The eluate is concentrated under reduced pressure. To the solid residue is added 5 ml of water and after stirring, the crystals are collected by filtration. The crystals are washed with 5 ml each of water and ether and dried. The above procedure yields 6-[2-(N-chloroacetylcarbamoyloxy)ethylthio]imidazo[1,2-b]pyridazine as crystals melting at 190° to 195° C.

reactant | 6-(2-hydroxyethylthio)imidazo[1,2-b]pyridazine | 500 mg | OCCSC=1C=CC=2N(N1)C=CN2 | C8H9N3OS
reactant | chloroacetyl isocyanate | 490 mg | ClCC(=O)N=C=O | C3H2ClNO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 6-[2-(N-chloroacetylcarbamoyloxy)ethylthio]imidazo[1,2-b]pyridazine | ClCC(=O)NC(=O)OCCSC=1C=CC=2N(N1)C=CN2 | C11H11ClN4O3S
